US07250515B2
Similar procedure as described in example 28c was used, starting from 4-(3-cyano-6-formyl-quinolin-4-yloxy)-piperidine-1-carboxylic acid tert-butyl ester, pseudothiohydantoin, sodium acetate and acetic acid to give 4-{6-[2-amino-4-oxo-4H-thiazol-(5Z)-ylidenemethyl]-3-cyano-quinolin-4-yloxy}-piperidine-1-carboxylic acid tert-butyl ester. LC-MS m/e 480 (MH+).

reactant | 4-(3-cyano-6-formyl-quinolin-4-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=NC2=CC=C(C=C12)C=O)C#N | C21H23N3O4
reactant | pseudothiohydantoin | COC=1C=CC(=CC1OC2CCCC2)/C=C\3/C(=O)NC(=N)S3 | C16H18N2O3S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-{6-[2-amino-4-oxo-4H-thiazol-(5Z)-ylidenemethyl]-3-cyano-quinolin-4-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=NC2=CC=C(C=C12)\C=C/1\C(N=C(S1)N)=O)C#N | C24H25N5O4S
